### PR TITLE
feat(Logic/Function/Basic) port most remaining items

### PR DESCRIPTION
**Pull request by dwrensha**
This is a continuation of #24, porting all but a handful of the remaining items, and adding a `TODO` for all of the unported items.

Also adds some needed items in `Logic/Basic.lean`.

### CODE REVIEW

File: Mathlib/Logic/Function/Basic.lean [hunk 1]
```diff
@@ -280,3 +281,401 @@ theorem partial_inv_left {α β} {f : α → β} (I : injective f) : ∀ x, part
...
+theorem update_comm {α} [DecidableEq α] {β : α → Sort _}
+  {a b : α} (h : a ≠ b) (v : β a) (w : β b) (f : ∀a, β a) :
+  update (update f a v) b w = update (update f b w) a v :=
+by funext c
+   simp only [update]
+   by_cases h₁ : c = b <;> by_cases h₂ : c = a
+
+   -- case 1
+   rw [dif_pos h₁, dif_pos h₂]
+   cases h (h₂.symm.trans h₁)
```
Comment (gebner) [inline Mathlib/Logic/Function/Basic.lean:494]: I believe we now have a fancy bullet points to structure tactic proofs, I hope this is the correct syntax:
```suggestion
   - rw [dif_pos h₁, dif_pos h₂]
     cases h (h₂.symm.trans h₁)
```

Comment (dwrensha) [reply Mathlib/Logic/Function/Basic.lean]: Cool! I needed to add some parentheses to make it work: 85838b2fda9bc17803df0a15b4abc21e7cc24e1e

Comment (dwrensha) [reply Mathlib/Logic/Function/Basic.lean]: This comment is what clued me in to the need for parens: https://github.com/leanprover-community/mathlib4/blob/e7cd8e7a8f5a7ba5473b9a89059741767319983d/Mathlib/Tactic/Block.lean#L29

The linked issue https://github.com/leanprover/lean4/issues/451 has been closed, so maybe that means `Mathlib/Tactic/Block` can now be updated somehow to avoid the need for these parens?

Comment (gebner) [reply Mathlib/Logic/Function/Basic.lean]: See the lengthy discussion here: https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/.22.C2.B7.20tac.22.20block.20notation

AFAICT it's not fixed yet and Mario wants to use `∙` instead of `-` to resolve the issue.
